US04738970
To 7.02 g of 3-methyl-5,6,7,8-tetrahydroquinoline was added dropwise 9.62 g of methanesulfonyl chloride under ice-cooled condition. The reaction mixture was stirred under ice-cooling condition for 2 hours, then further stirred at 80° C. for 3 hours. To the reaction mixture was added water, and this solution was made alkaline by adding sodium carbonate, then extracted with diethyl ether. The diethyl ether layer was washed with an aqueous solution saturated with sodium chloride, and dried with anhydrous magnesium sulfate. The solvent was removed by evaporation, then thus obtained residue was purified by a silica gel column chromatography (eluent: dichloromethane/methanol=100/1) to obtain 2.74 g of 3-methyl-8-chloro-5,6,7,8-tetrahydroquinoline.

reactant | 3-methyl-5,6,7,8-tetrahydroquinoline | 7.02 g | CC=1C=NC=2CCCCC2C1 | C10H13N
reactant | methanesulfonyl chloride | 9.62 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 3-methyl-8-chloro-5,6,7,8-tetrahydroquinoline | 2.74 g | CC=1C=NC=2C(CCCC2C1)Cl | C10H12ClN
